US07605272B2
A solution of 2-hydroxybenzaldehyde (0.20 mL, 1.9 mmol) in DMF (2.0 mL) was added with (2-bromoethyl)benzene (0.39 mL, 2.8 mmol) and potassium carbonate (0.78 g, 5.6 mmol), stirred at room temperature for 3.0 hours and at 80° C. for 7.5 hours. The reaction mixture was added with water and ethyl acetate to separate the mixture into organic layer and aqueous layer and the organic layer was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=90/10 to 80/20) to obtain 2-(2-phenylethyloxy)benzaldehyde (0.15 g, 36%).

reactant | 2-hydroxybenzaldehyde | 1.9 mmol, 0.20 mL | OC1=C(C=O)C=CC=C1 | C7H6O2
reactant | (2-bromoethyl)benzene | 2.8 mmol, 0.39 mL | BrCCC1=CC=CC=C1 | C8H9Br
reactant | potassium carbonate | 5.6 mmol, 0.78 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2-phenylethyloxy)benzaldehyde | 0.15 g, 36% | C1(=CC=CC=C1)CCOC1=C(C=O)C=CC=C1 | C15H14O2
